US07534797B2
cis-3-[3-(tert-Butyldimethylsilanyloxymethyl)cyclobutyl]-8-chloroimidazo[1,5-a]pyrazine and trans-3-[3-(tert-butyldimethylsilanyloxymethyl)cyclobutl]-8-chloroimidazo[1,5-a]pyrazine were prepared according to the general procedure for the preparation for cis-3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutylmethyl toluene-4-sulfonate and trans-3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutylmethyl toluene-4-sulfonate, except tert-butylchlorodimethylsilane was used instead of p-toluenesulfonic anhydride.

reactant | cis-3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutylmethyl toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1C[C@@H](C1)C1=NC=C2N1C=CN=C2Cl)C | C18H18ClN3O3S
reactant | trans-3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutylmethyl toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1C[C@H](C1)C1=NC=C2N1C=CN=C2Cl)C | C18H18ClN3O3S
reactant | tert-butylchlorodimethylsilane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | cis-3-[3-(tert-Butyldimethylsilanyloxymethyl)cyclobutyl]-8-chloroimidazo[1,5-a]pyrazine | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H](C1)C1=NC=C2N1C=CN=C2Cl | C17H26ClN3OSi
